Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
brimonidine
 
Attending: ___.
 
Chief Complaint:
port line infection
 
Major Surgical or Invasive Procedure:
___ - Port-a-cath removal
___- PICC line placement
___ - Right chest wall drain placement in ___

 
History of Present Illness:
___ with Stage IIa Hodgkins lymphoma diagnosed in ___ s/p 2 
cycles of ABVD chemotherapy (last treatment on ___, and on 
Neupogen x 3 days upon completion) who presents with fever to 
104 x 1 day and several days of redness over her port. 

Of note patient was recently admitted to thoracic surgery 
service in ___ for mediastinal mass and had undergone 
mediastinoscopy and aspiration of chest wall mass at right 
breast on ___. A large mass in the upper mediastinal nodal 
area was noted. When the mass was dissected approximately 20 cc 
of purulence was expressed. Cultures and stains were negative 
and pathology revealed Hodgkins lymphoma. On ___, she was 
found to have some redness at the mediastinoscopy incision site 
which was concerning for cellulitis. She was treated with a 
course of keflex without resolution of the erythema and 
induration at the wound site was not changed and thick pus began 
to leak from a new opening in the wound and a second drainage 
site later developed. Patient was taken back to the OR for I&D 
and 20 cc of pus drained form the old cervical mediastinoscopy 
incision. A portacath was placed in the OR on ___ via the 
right subclavian. She was given IV vancomycin and was 
transitioned to PO keflex complete 7-day course after port 
insertion but still had discharge from her neck incison. 
Chemotherapy was started on ___ with AVBD Q2weeks. 

During her last visit on ___ the patient reported issues with 
needle acces by nursing. On ___ she felt muscle ache around 
port area and noticed redness around the port without any 
discharge which became more intense overtime. She developed 
shaking chills, loss of energy and fever 104 and presented to 
clinic day prior to admission where she was noted to have a 
tender erythematous port site over her R upper chest extending 
down to her right arm, concerning for infection. A peripheral IV 
was attempted because of reluctance to access her port, but 
unsuccessful. The patient was subsequently referred to the ___ 
ED. 

In ED/Clinic, initial VS 103, HR 139, BP 105/49, RR 16, and SpO2 
99% on 2L. Labs were notable for lactate 2.4, WBC 2.4 with 64% 
PMNs, 8% bandenua. CXR showed no focal infiltrate. The patient 
was started on vancomycin prior to transfer to floor. Blood 
cultures x 2 were drawn. 

In the OR, port site was incised and drained for about 40-50cc's 
of pus. Plan had been to transfer to medical oncology floor 
post-operatively, however patient remained tachycardic and 
hypotensive in PACU, transfered to TSICU where she was bolused 
about 2L of IV and required pressors (initially 1.8mcg/kg/min 
and weaned off at 8am) overnight which were discontinued this 
AM. Vitals prior to transfer were T 100 BP 124/53, HR 102, RR 
26, POx 96% RA

Upon arrival patient VSS and patient voices no acute complaints. 
She denies cough, pleuritic chest pain, SOB, abdominal pain, 
n/V, diarrhea, legs pain, rash.  
 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
___- Initially presented to PCP ___ 5x5 cm non-mobile firm 
mass above R breast  
___- CXR shows focal soft tissue prominence overlying 
anterior chest wall  
___- MRI shows multiple anterior superior mediastinal masses 
with R paratracheal LAD  
___- CT imaging showed R anterior chest wall mass displacing 
the pec major with multiple small masses in ant mediastinum. No 
pulm parenchymal or abd/pelvic/bony abnormalities seen.  
___- Initial med onc consult  
___- Cervical mediastinopscopy at BI was done. Pathology 
showed classical hodgkin's disease, nodular sclerosing type. 
Flow was negative.  
___- PET/CT showed bulky mediastinal adenopathy compatible 
with biopsy proven lymphoma. Plan for ABVD x 6.  
___- Incision/drainage of cervical mediastinoscopy wound 
and drainage of abscess - all cx neg, inpt stay with abx 
coverage, port placement ___, all @ BI.  
___- Port-a-Cath placed for chemotherapy  
___- C1D1 ABVD, completed Keflex. No neopogen. Tolerated 
fairly well with no n/v [used only ativan], but BS up [decadron 
12 mg as part of antiemetic]  
___- Seen by thoracic surgery @ BI- mediastinoscopy and 
port sutures removed, not restarted on abx, plan f/u prn  
___- New nodule on R chest, ANC = 100, afebrile. started 
on keflex ___ q6  
___- C1D15 ABVD. Skin improved anc 2200, started neupogen 
3 doses/cycle  
___- C2D1 ABVD 
 
PAST MEDICAL HISTORY:  
1. T2DM  
2. HTN  
3. HLD  
4. Morbid obesity  
5. Primary open angle glaucoma  
6. Rosacea blepharoconjunctivitis  
7. Asthma
8. Allergic Rhinitis 

PAST SUGICAL HISTORY:  
1. Cervical mediastinoscopy and Aspiration of chest wall mass at 
right breast. ___  
2. Incision and drainage of a cervical mediastinoscopy wound, 
evacuation of deep cervical abscess ___  
3. Indwelling port placement ___  
 
Social History:
___
Family History:
Father- colon cancer, wet macular degeneration  
Mother- lymphoma, T2DM 
 
Physical Exam:
ADMISSION:
VS: T99.8 BP 135/74 HR 109 RR 22 POx 94% RA
GENERAL: Obese female sitting in chair in NAD, pale, pleasant 
and cooperative, speaking in full sentences.  
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, MMM, adentulous maxillary area, 
NECK nontender supple neck, no LAD, no JVD, no carotid bruits 
appreciated  
CARDIAC: tachycardic, no murmurs, gallops, or rubs  
LUNG: Clear, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABD: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXT: moving all extremities well, no cyanosis, clubbing or 
edema, no obvious deformities, no splinter hemorrages or oslers 
nodes. 
PULSES: 2+ DP pulses bilaterally  
NEURO: Speech coherent, cognition intact, CN II-XII grossly 
intact, moving all four extremities. Reflexes not assessed.
SKIN: erythematous and mildly ___ area around port site wound 
(removed last night). Area is packed with guaze. No discharge 
seen. Neck scar is c/d/i without tenderness.

DISCHARGE:
VS: Last fever 100.4 6:30am ___ 98.2 Tmax 98.2 120/56 p82 
rr18 97%RA  
Blood sugars: 147, 141, 120, 134. Fingerstick LOW 70'S this am.
GENERAL: Alert and oriented x 3. speech coherent. speaking in 
full sentences. NAD  
HEENT:NCAT, EOMI, PERRLA, EOMI, OP clear
NECK nontender supple neck, no JVD, 
CARDIAC: RRR
LUNG: CTAB, without advential sounds. No use of accessory 
muscles
ABD: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXT: ___ pitting bilateral lower extremity edema. no calf 
tenderness or redness 
PULSES: 2+ DP pulses bilaterally  
NEURO:  CN II-XII grossly intact, moving all four extremities 

 
 
Pertinent Results:
___ 05:00PM BLOOD WBC-2.4*# RBC-3.43* Hgb-8.9* Hct-28.6* 
MCV-84# MCH-26.1*# MCHC-31.2 RDW-20.6* Plt ___
___ 10:50PM BLOOD WBC-2.4* RBC-3.24* Hgb-8.1* Hct-27.3* 
MCV-84 MCH-25.1* MCHC-29.8* RDW-20.7* Plt ___
___ 02:07AM BLOOD WBC-2.6* RBC-2.93* Hgb-7.2* Hct-24.5* 
MCV-84 MCH-24.6* MCHC-29.4* RDW-20.6* Plt ___
___ 05:00PM BLOOD Glucose-208* UreaN-12 Creat-1.0 Na-132* 
K-5.5* Cl-97 HCO3-22 AnGap-19
___ 10:50PM BLOOD Glucose-142* UreaN-11 Creat-0.7 Na-138 
K-3.7 Cl-107 HCO3-23 AnGap-12
___ 11:47AM BLOOD Glucose-148* UreaN-9 Creat-0.7 Na-140 
K-3.5 Cl-111* HCO3-19* AnGap-14
___ 10:50PM BLOOD Calcium-7.5* Phos-2.5* Mg-1.5*
___ 05:18PM BLOOD Lactate-2.4*
___ 10:58PM BLOOD Lactate-1.8

CXR ___:
FINDINGS:  Single portable view of the chest.  Relatively low 
lung volumes are again seen.  Right chest wall port is seen with 
catheter tip at the upper SVC. 
The lungs are clear without consolidation, large effusion or 
vascular congestion.  The cardiomediastinal silhouette is 
stable. 
  
IMPRESSION:  No acute cardiopulmonary process. 
 
CXR ___:  
FINDINGS:  In comparison with study of ___, the patient has 
taken a better inspiration.  The cardiac silhouette remains 
within normal limits in size and there is no evidence of acute 
focal pneumonia or vascular congestion. 

echo ___
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (LVEF>55%). 
Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. There is no ventricular 
septal defect. with normal free wall contractility. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. No masses or vegetations are seen on the aortic 
valve. The mitral valve leaflets are structurally normal. No 
mass or vegetation is seen on the mitral valve. Mild (1+) mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. No vegetation/mass is seen on the pulmonic valve. 
There is no pericardial effusion.

CHEST XRAY ___ post picc line placement:
IMPRESSION:  
Left PICC terminates in the low SVC. 

CHEST XRAY PA & LAT ___
IMPRESSION:  
In comparison with the study ___, there is no change or 
evidence of 
acute cardiopulmonary disease.  CVP catheter remains in place. 

CT CHEST W/O CONTRSAT ___ 
IMPRESSION: 
1. Dominant right upper chest wall cystic collection is larger 
as detailed above. Smaller cystic collections in the anterior 
mediastinum are significantly decreased. 
2. Mediastinal lymphadenopathy is smaller. 
3. Multiple left lower lobe opacities are concerning for 
aspiration. 
4. Left PICC line is displaced, coiled in the right 
brachiocephalic vein and should be repositioned. 

DOPPLER U/S RIGHT UPPER EXT ___
IMPRESSION:  
No evidence of deep vein thrombosis in the right upper 
extremity. Subcutaneous soft tissue thickening at the right 
forearm. 

PORTABLE CHEST XRAY ___
IMPRESSION:  
  
In comparison with the study ___, the tip of the 
subclavian catheter is either at the cavoatrial junction or in 
the upper portion of the right atrium. Because of the danger of 
the tube being pulled back substantially with a power injection 
at CT, it would probably be best to leave the catheter where it 
is unless there are any atypical atrial beats. 

PERCUTANEOUS IMAGE GUIDED FLUID COLLECTION ___
IMPRESSION:  
Successful US-guided placement of ___ ___ pigtail 
catheter into the subcutaneous right anterior chest wall 
collection. Samples was sent for microbiology and cytology 
evaluation 

  

 
Brief Hospital Course:
___ with Stage IIa Hodgkins lymphoma diagnosed in ___ s/p 2 
cycles of ABVD chemotherapy (last treatment on ___, and on 
Neupogen x 3 days upon completion) who presented with sepsis ___ 
to portacath line infection s/p surgical removal on ___, 
intially treated with vanc/cefepime/flagyl requiring pressors 
and IVF for hypotension in ICU, then transferred to medical 
floor after hemodynamically stable.

#Port line infection and sepsis/MSSA bacteremia: Presented with 
fever to 104 x 1 day and port site erythema and purulence with 
sepsis requiring ICU admission and pressors. Port removed 
emergently by ACS. Port and blood grew MSSA. No evidence of 
endocarditis on examination, EKG w/o e/o heart block, and 
echocardiogram with no e/o vegetation. Surveillance cultures 
were all negative. Nafcillin was started on ___ with ID reccs 
for 4 weeks of treatment(end date ___. Fevers downtrended 
with last episode ___. Woundcare throughout hospital course and 
to continue upon discharge by ___

#Cystic Fluid collection, right chest wall: CT chest was done to 
evaluate for progression of disease. It showed a cystic fluid 
collection which was subsequently drained. Fluid culture and 
cytology was negative. 

#Hodgkins Lymphoma: ABVD was given on ___ and GCSF X 3 DAYS 
POST CHEMO: Start ___ to ___

#Diarrhea: RESOLVED. Initial diarrhea while on antibiotics. 
Probably functional vs infectious. No abdominal pain, blood, pus 
or mucus in stool per patient. C. diff negative. Diarrhea 
recurrent on ___ with rising WBC. Repeat C. diff negative, 
likely abx induced diarrhea. 

#T2DM: Her blood sugars were monitored. Due to fluctuations in 
sugar control her DM regimen was adjusted during hospital stay. 
Her am glucose was 42 and fingerstick 71. Glyburide is being 
held at discharge and can be resumed as appropriate on 
outpatient follow up. Lantus dose reduced to 15 from 20units.

# HTN: Continue hctz and atenolol, lisinopril and metoprolol

# HLD; Continued home simvastatin

# Primary open angle glaucoma: continued travoprost 0.004% 
opthalmic drops
  
#Asthma: continued home inhalers

#Allergic Rhinitis: continue home fluticasone prn

TRANSITIONAL ISSUES:
- Nafcillin IV ___ till ___
- Wound care for port wound
- F/up with surgery
- Glargine dose decreased to 15 units and glyburide held ___ 
hypoglycemia

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. GlyBURIDE 10 mg PO BID 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Lorazepam 0.5 mg PO Q8H:PRN anxiety/sleep 
6. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
7. Simvastatin 20 mg PO DAILY 
8. travoprost 0.004 % ophthalmic qAM 
9. Acetaminophen 1000 mg PO Q6H:PRN pain 
10. albuterol sulfate 90 mcg/actuation inhalation q4h wheezing 
11. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
12. Cephalexin 500 mg PO Q6H 
13. Lantus (insulin glargine) 20 units subcutaneous dailiy 
14. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous 
per sliding scale 
15. Fluticasone Propionate 110mcg 4 PUFF IH BID 
16. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1. Nafcillin 2 g IV Q4H Duration: 4 Weeks 
umtill ___ 
RX *nafcillin in dextrose iso-osm 2 gram/100 mL 2 grams IV every 
four (4) hours Disp #*144 Intravenous Bag Refills:*0
2. albuterol sulfate 90 mcg/actuation inhalation q4h wheezing 
3. Fluticasone Propionate 110mcg 4 PUFF IH BID 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. Lisinopril 40 mg PO DAILY 
6. Lorazepam 0.5 mg PO Q8H:PRN anxiety/sleep 
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
8. Simvastatin 20 mg PO DAILY 
9. travoprost 0.004 % ophthalmic qAM 
10. Atenolol 25 mg PO DAILY 
11. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous 
per sliding scale 
12. Hydrochlorothiazide 25 mg PO DAILY 
13. Lantus (insulin glargine) 15 units SUBCUTANEOUS DAILY 
14. Filgrastim 300 mcg SC Q24H Duration: 2 Days 
end date ___. Acetaminophen 1000 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
- MSSA port-a-cath site infection
- MSSA bacteremia
- Sterile chest wall fluid collection

Secondary diagnoses:
- Hodgkin lymphoma
- Hypertension
- Diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege caring for you here at ___. You came into 
the hospital because of an infection around your port-a-cath and 
in your blood with bacteria. Your port was removed and you have 
been treated with IV antibiotics which you will continue for 
4-weeks. You needed another line since your port was removed and 
so you had a PICC line placed for your antibiotics. You also had 
drainage of a collection of fluid near the port site, which did 
not grow bacteria. At the time of discharge, you were feeling 
improved. You will continue follow-up with your oncologist as an 
outpatient, as you received further chemotherapy this admission.

You need to continue to take care of the wound at the site of 
your previous port-a-cath. Nursing services have been arranged 
to help with that at home.

You also received a bone marrow stimulant to improve your cell 
counts following chemotherapy and will continue for 2 more doses 
while at home.

Please keep all your doctors' appointments.

All the Best!

Your ___ team.
 
Followup Instructions:
___